US07321041B2
Elemental sodium (173 mg, 7.5 mmol) was added to 40 mL of absolute EtOH stirring under nitrogen. After all of the sodium reacted, 4-methoxyacetophenone (1.44 g, 7.5 mmol) was added, and the reaction stirred an additional 15 minutes. 2,6-Dichloronicotinic acid (1 g, 5.2 mmol) and copper acetate (80 mg, 0.65 mmol) was added and the reaction was stirred at reflux for 16 hours. The reaction was cooled to room temperature and quenched with 1 mL concentrated acetic acid. The mixture was concentrated to a solid, and redissolved in EtOAc. A small portion of fine inorganic precipitate was filtered off. The organic layer was extracted with 3×100 mL 1N NaOH. This was acidified with 1 N HCl to a pH of ˜4. A precipitate formed and was collected by vacuum filtration, yielding 6-chloro-2-[2-(4-methoxyphenyl)-2-oxo-ethyl]-nicotinic acid (1 g, 63%) as a tan solid.

reactant | sodium | 7.5 mmol, 173 mg | [Na] | Na
reactant | 4-methoxyacetophenone | 7.5 mmol, 1.44 g | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | 2,6-Dichloronicotinic acid | 5.2 mmol, 1 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
catalyst | copper acetate | 0.65 mmol, 80 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | EtOH | 40 mL | CCO | C2H6O
product | 6-chloro-2-[2-(4-methoxyphenyl)-2-oxo-ethyl]-nicotinic acid | 1 g, 63% | ClC1=NC(=C(C(=O)O)C=C1)CC(=O)C1=CC=C(C=C1)OC | C15H12ClNO4
